US08633173B2
A suspension of [8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-piperazin-1-yl-phenyl)-amine (100.0 mg, 0.2229 mmol), 2-chloroacetamide (23.0 mg, 0.246 mmol) and sodium iodide (3.0 mg, 0.020 mmol) in acetonitrile (2 mL) was stirred and heated at 70° C. for 6 hours. The suspension was cooled to room temperature, diluted with water (30 mL). The precipitate was filtered and rinsed with water. The recovered yellow solid was triturated with methanol (5 mL), filtered and placed under high vacuum overnight. 2-(4-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperazin-1-yl)-acetamide and was isolated as a yellow solid (0.075 g, 67%). MP=271-275° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.62 (s, 1H), 8.86 (d, J=6.5 Hz, 1H), 8.43 (d, J=7.5 Hz, 2H), 8.06 (d, J=7.6 Hz, 2H), 7.96 (d, J=7.5 Hz, 1H), 7.53 (s, 1H), 7.26-7.06 (m, 5H), 6.50 (d, J=6.5 Hz, 1H), 3.29 (s, 3H), 3.20-3.15 (m, 4H), 2.93 (s, 2H), 2.64-2.58 (m, 4H). MS=506 (MH)+.

reactant | [8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-piperazin-1-yl-phenyl)-amine | 0.2229 mmol, 100.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)N2CCNCC2 | C23H24N6O2S
reactant | 2-chloroacetamide | 0.246 mmol, 23.0 mg | ClCC(=O)N | C2H4ClNO
reactant | sodium iodide | 0.020 mmol, 3.0 mg | [I-].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | 30 mL | O | H2O
product | 2-(4-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperazin-1-yl)-acetamide | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=C(C=CC2)N2CCN(CC2)CC(=O)N | C25H27N7O3S
